US06881746B2
A mixture of 4-[(4-chlorophenylamino)methyl]benzoic acid (33.3 g, 127 mmol) and potassium thiocyanate (37 g, 382 mmol) in 1 N hydrochloric acid (500 mL) was refluxed for 16 hours. The suspension was filtered and washed with water. The solid was mixed with potassium thiocyanate (37 g, 382 mmol) and 1 N hydrochloric acid (500 mL) and the mixture was again refluxed for 16 hours. Filtration, washing with water and re-submission to the reaction conditions above afforded 30.2 g (70%) of 4-[1-(4-chlorophenyl)thioureidomethyl]benzoic acid as a solid.

reactant | 4-[(4-chlorophenylamino)methyl]benzoic acid | 127 mmol, 33.3 g | ClC1=CC=C(C=C1)NCC1=CC=C(C(=O)O)C=C1 | C14H12ClNO2
reactant | potassium thiocyanate | 382 mmol, 37 g | [S-]C#N.[K+]
reactant | potassium thiocyanate | 382 mmol, 37 g | [S-]C#N.[K+]
solvent | hydrochloric acid | 1 N, 500 mL | Cl | ClH
solvent | hydrochloric acid | 1 N, 500 mL | Cl | ClH
product | 4-[1-(4-chlorophenyl)thioureidomethyl]benzoic acid | 30.2 g, 70% | ClC1=CC=C(C=C1)N(C(=S)N)CC1=CC=C(C(=O)O)C=C1 | C15H13ClN2O2S
